.title kicad schematic

.include SN74AS304.sub
v2 net-_u2-pad1_ gnd pulse(0 5 0 0 0 2m 4m)
v1 net-_u1-pad1_ gnd pwl(0 5 9m 5 10m 0 29m 0 30m 5 50m 5)
x1 net-_u4-pad3_ net-_u4-pad4_ net-_u4-pad5_ net-_u4-pad6_ net-_u4-pad7_ net-_u4-pad8_ net-_u1-pad2_ net-_u2-pad2_ net-_u3-pad2_ net-_u4-pad1_ net-_u4-pad2_ SN74AS304
* u4 net-_u4-pad1_ net-_u4-pad2_ net-_u4-pad3_ net-_u4-pad4_ net-_u4-pad5_ net-_u4-pad6_ net-_u4-pad7_ net-_u4-pad8_ q1 q2 q3 q4 q5 q6 q7 q8 dac_bridge_8
* u2 net-_u2-pad1_ net-_u2-pad2_ adc_bridge_1
* u3 net-_u3-pad1_ net-_u3-pad2_ adc_bridge_1
* u1 net-_u1-pad1_ net-_u1-pad2_ adc_bridge_1
v3 net-_u3-pad1_ gnd pwl(0 0 9m 0 10m 5 19m 5 20m 0 29m 0 30m 5 50m 5)
a1 [net-_u4-pad1_ net-_u4-pad2_ net-_u4-pad3_ net-_u4-pad4_ net-_u4-pad5_ net-_u4-pad6_ net-_u4-pad7_ net-_u4-pad8_ ] [q1 q2 q3 q4 q5 q6 q7 q8 ] u4
a2 [net-_u2-pad1_ ] [net-_u2-pad2_ ] u2
a3 [net-_u3-pad1_ ] [net-_u3-pad2_ ] u3
a4 [net-_u1-pad1_ ] [net-_u1-pad2_ ] u1
* Schematic Name:                             dac_bridge_8, Ngspice Name: dac_bridge
.model u4 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
* Schematic Name:                             adc_bridge_1, Ngspice Name: adc_bridge
.model u2 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             adc_bridge_1, Ngspice Name: adc_bridge
.model u3 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             adc_bridge_1, Ngspice Name: adc_bridge
.model u1 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
.tran 10e-06 50e-03 0e-03

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
.endc
.end
